* source 007_STIMULUS
V_V1         N00232 0   STIMULUS=StimulU1
R_R1         N00232 0  1k TC=0,0 
V_V2         N00720 0  
+PULSE 0V 10V 1us 1us 1us 10us 30us
R_R2         N00720 0  1k TC=0,0 
R_R3         N01011 0  1k TC=0,0 
I_I1         N01011 0   STIMULUS=Isimul
V_V3         N01823 0   STIMULUS=StimulSinus
R_R4         N01823 0  1k TC=0,0 
V_V4         N02093 0   STIMULUS=FMSinus
R_R5         N02093 0  1k TC=0,0 
